data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3767,4315,[CH3:10][C-:11]([CH3:12])[NH+:13]=[CH:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:13][C:11]1([CH3:10])[CH3:12],water,298.15,17.839336725658196,-19.94702281478901
2335,2593,[CH3:13][NH:14][C:15](=[O:16])[N-:17][O+:18]=[C:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([Br:11])[Br:12]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([Br:11])([Br:12])[N:17]([C:15]([NH:14][CH3:13])=[O:16])[O:18][C:19]1([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,23.77570761573557,-26.42401366944211
2170,2408,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[N+:25]([CH3:26])=[C:27]([C:28]#[N:29])[C:30]#[N:31].[CH3:1][CH:2]1[C:3]#[C:4][C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([C:6]([F:7])([F:8])[F:9])([C:10]([F:11])([F:12])[F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:23]#[N:24])[N:25]([CH3:26])[C:27]2([C:28]#[N:29])[C:30]#[N:31],water,298.15,25.419484341816894,-29.62675678535721
425,463,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[N+:13][CH-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N:13]=[N:12]2,water,298.15,22.752579942663,-7.683688167689119
3059,3433,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH-:9][NH+:10]=[CH:11][C:12]([CH3:13])=[O:14]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[CH:9]([C:7]([NH:6][CH3:5])=[O:8])[NH:10][CH:11]1[C:12]([CH3:13])=[O:14],water,298.15,23.80119990561276,-20.563890146753256
101,114,[CH3:9][C:10](=[O:11])[CH:12]=[O+:13][C-:14]([CH3:15])[C:16]#[N:17].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:12]([C:10]([CH3:9])=[O:11])[O:13][C:14]3([CH3:15])[C:16]#[N:17],water,298.15,8.543462446100978,-73.05563307475227
4231,4841,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][CH-:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:16]([C:17]#[N:18])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19](=[O:20])[O:21][CH3:22],water,298.15,12.480806460004592,-14.765536811485688
3520,4012,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[CH3:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[CH3:18],water,298.15,18.84050349072278,-34.54364021852032
69,80,[CH3:1][C:2](=[O:3])[C:4]#[C:5][Cl:6].[CH3:7][C-:8]([C:9]#[N:10])[O+:11]=[C:12]([C:13]#[N:14])[C:15]#[N:16]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[C:8]([CH3:7])([C:9]#[N:10])[O:11][C:12]1([C:13]#[N:14])[C:15]#[N:16],water,298.15,13.297472777458475,-64.20760760149359
4868,5551,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH:19]=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:22]([C:23]#[N:24])([C:25]#[N:26])[N:20]([CH3:21])[CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,26.603176818399323,-2.444833682797906
173,190,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][CH:10]=[NH+:11][C-:12]([C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:10]([CH3:9])[NH:11][C:12]1([C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18],water,298.15,17.118331302372127,-35.16127110322862
4240,4850,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([CH3:20])[N+:21]#[N:22]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([CH3:20])[N:21]=[N:22]2,water,298.15,30.515115991395305,6.986621832920916
